US09315462B2
Step 4: Synthesis of 8-fluoro-2-hydroxyquinolin-6-yl acetate
To a solution of 8-fluoro-2-oxo-1,2,3,4-tetrahydroquinolin-6-yl acetate (718 mg) in toluene (8 mL) was added DDQ (1.2 g). The resultant solution was heated at 70° C. over 48 h. After aqueous work-up with EtOAc, the crude product was purified by a flash silica column chromatography to afford the pure product (550 mg) as a colorless solid.

reactant | 8-fluoro-2-oxo-1,2,3,4-tetrahydroquinolin-6-yl acetate | 718 mg | C(C)(=O)OC=1C=C2CCC(NC2=C(C1)F)=O | C11H10FNO3
reactant | DDQ | 1.2 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | 8-fluoro-2-hydroxyquinolin-6-yl acetate | 550 mg | C(C)(=O)OC=1C=C2C=CC(=NC2=C(C1)F)O | C11H8FNO3
